US08067362B2
3-(4-Bromophenyl)propionic acid (1.0 g, 4.4 mmol) was dissolved in toluene (15 ml) and treated with N,N-dimethylformamide ditert-butyl acetal (1.8 g, 8.7 mmol). The mixture was heated to 90° C. for 5 hours, and then treated with more N,N-dimethylformamide ditert-butyl acetal (1.8 g, 8.7 mmol). The mixture was left at 90° C. overnight. Ethyl acetate was added (25 ml) and the organic phase was washed with 2×0.1 M HCl, 2×5% Na2CO3 and water. Drying over MgSO4 and evaporation in vacuo gave tert-butyl 3-(4-bromophenyl)propionate, 0.735 g (59%).

reactant | 3-(4-Bromophenyl)propionic acid | 4.4 mmol, 1.0 g | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | N,N-dimethylformamide ditert-butyl acetal | 8.7 mmol, 1.8 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | N,N-dimethylformamide ditert-butyl acetal | 8.7 mmol, 1.8 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(4-bromophenyl)propionate | BrC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C13H17BrO2
